US07625948B2
a) 3-Ethyl-4-nitrophenylacetic acid ethyl ester
To a solution of 4-nitrophenylacetic acid ethyl ester (1.63 g) in tetrahydrofuran (100 mL) was dropwise added 2M ethyl magnesium chloride in tetrahydrofuran (3 mL) at −15° C. under argon atmosphere, and the mixture was stirred at the same temperature for 30 minutes. After further dropwise addition of 2M ethyl magnesium chloride in tetrahydrofuran (3 mL), the mixture was stirred at −15° C. for one hour, and 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (3.0 g) was added thereto at the same temperature. The mixture was stirred overnight, and water (300 mL) was added thereto, followed by extraction with chloroform (150 mL×3). The organic layers were combined, washed with saturated brine, dried over sodium sulfate and purified by column chromatography on silica gel with hexane:ethyl acetate=10:1 to give the title compound (1.09 g).

reactant | 4-nitrophenylacetic acid ethyl ester | 1.63 g | C(C)OC(CC1=CC=C(C=C1)[N+](=O)[O-])=O | C10H11NO4
reactant | ethyl magnesium chloride | 2M | C(C)[Mg]Cl
reactant | ethyl magnesium chloride | 2M | C(C)[Mg]Cl
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 3.0 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | water | 300 mL | O | H2O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 3-Ethyl-4-nitrophenylacetic acid ethyl ester | 1.09 g | C(C)OC(CC1=CC(=C(C=C1)[N+](=O)[O-])CC)=O | C12H15NO4
